* Canonical DUT generated from benchmark/analogcoder_pro/p23_oscillator.cir
* Embedded analyses and output directives were externalized into metadata.
* AnalogCoder-Pro p23: A Wien Bridge oscillator
* Source: analogcoder\AnalogCoderPro-master\sample_design\p23\p23.py
* AnalogCoder-Pro type: Oscillator
* Inputs: -
* Outputs: Vout
* Opamp subcircuit imported from AnalogCoder-Pro opamp.py
.SUBCKT Opamp Vinp Vinn Vout
.MODEL nmos_model NMOS (LEVEL=1 KP=0.0001 VTO=0.5)
.MODEL pmos_model PMOS (LEVEL=1 KP=5e-05 VTO=-0.5)
Vdd Vdd 0 5
Vbias Vbias 0 1.5
M1 Voutp Vinp Source3 Source3 nmos_model W=5e-05 L=1e-06
M2 Vout Vinn Source3 Source3 nmos_model W=5e-05 L=1e-06
M3 Source3 Vbias 0 0 nmos_model W=0.0001 L=1e-06
M4 Voutp Voutp Vdd Vdd pmos_model W=0.0001 L=1e-06
M5 Vout Voutp Vdd Vdd pmos_model W=0.0001 L=1e-06
.ENDS Opamp
Vdd Vdd 0 5
Vref Vref 0 2.5
R1 Vout N1 10k
C1 N1 N2 1
R2 N2 Vref 10k
C2 N2 Vref 10n
Rf1 Vout Vinn 21k
Rf2 Vinn Vref 10k
X1 N2 Vinn Vout Opamp
* original analysis: .TRAN 10U 20M
.END
